US08383827B2
Step 2: Synthesis of N-((5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopentyl)methyl)ethanesulfonamide
A mixture of 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile (205 mg, 0.77 mmol), N-((5-bromopyridin-3-yl)(cyclopentyl)methyl)ethane-sulfonamide (270 mg, 0.77 mmol), PdCl2(PPh3)2 (45 mg, 0.06 mmol) and Na2CO3 (2 M in water, 0.97 mL, 1.94 mmol) in DMF(4 mL) was heated at 100° C. for 2 h. The solvent was removed in vacuo. The residue was dissolved in DCM and filtered. The DCM layer was concentrated and purified by flash column (EtOAc/Heptane, v/v, 0-50%) to give the title compound (104 mg, 33%); ESI-MS m/z: 404 [M+1]+; 1HNMR (MeOD, 400 MHz) δ 8.80 (1H, d, J=2.0 Hz), 8.61 (1H, d, J=2.0 Hz), 8.15 (1H, t, J=2.0 Hz), 8.01 (1H, d, J=1.6 Hz), 7.94 (1H, d, J=8.0 Hz), 7.82 (1H, dd, J=8.0, 1.6 Hz), 4.29 (1H, d, J=10 Hz), 2.92-2.72 (2H, m), 2.34-2.27 (1H, m), 2.03-1.97 (1H, m), 1.77-1.53 (6H, m), 1.38-1.28 (1H, m), 1.15 (1H, t, J=7.2 Hz).

reactant | 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 0.77 mmol, 205 mg | ClC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
reactant | N-((5-bromopyridin-3-yl)(cyclopentyl)methyl)ethane-sulfonamide | 0.77 mmol, 270 mg | BrC=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CCCC1 | C13H19BrN2O2S
reactant | Na2CO3 | 1.94 mmol, 2 M, 0.97 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.06 mmol, 45 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-((5-(3-chloro-4-cyanophenyl)pyridin-3-yl)(cyclopentyl)methyl)ethanesulfonamide | 104 mg, 33% | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CCCC1 | C20H22ClN3O2S
